US06518390B2
Then, a solution prepared by dissolving 24.7 g (0.15 mole) of 4-ethynylbenzoic acid chloride in 30 ml of tetrahydrofuran was added dropwise into 300 ml of methanol cooled in an ice bath. After the addition was completed, the reaction solution became turbid in 20 minutes. The reaction mixture was kept being stirred for 2 hours in the ice bath and then stirred at the room temperature for further 2 hours. The reaction mixture was filtered and dried and 21 g (the yield: 87%) of methyl 4-ethynylbenzoate was obtained.

reactant | 4-ethynylbenzoic acid chloride | 0.15 mole, 24.7 g | C(#C)C1=CC=C(C(=O)Cl)C=C1 | C9H5ClO
reactant | methanol | 300 ml | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | methyl 4-ethynylbenzoate | yield: 87% | C(#C)C1=CC=C(C(=O)OC)C=C1 | C10H8O2
